US07425634B2
(3b) 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole
To a mixture of 2-(chloromethyl)-(4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridine (837 mg, 2.79 mmol), 2-mercaptobenzimidazole (419 mg, 2.79 mmol) and sodium hydroxide (223 mg, 5.58 mmol), methanol (20 ml) was added and the mixture was stirred at room temperature for 12 hours and 55 minutes. The reaction mixture was concentrated under reduced pressure. Toluene and a 0.1N aqueous sodium hydroxide solution were added to the residue and insoluble substance was removed by filtration, and then, the organic layer was taken out. The aqueous layer was extracted again with toluene. The organic layers were combined and washed with a saturated saline solution, dried over sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure. The residue was dissolved in n-heptane/ethyl acetate (1/1) and subjected to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=1/1→0/1) to obtain the title compound (980 mg, 84.9%) as a white foam.

reactant | 4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridine | 2.79 mmol, 837 mg | CC1(OCC(CO1)COC1=C(C=NC=C1C)C)C | C14H21NO3
reactant | 2-mercaptobenzimidazole | 2.79 mmol, 419 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydroxide | 5.58 mmol, 223 mg | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 980 mg, 84.9% | CC1(OCC(CO1)COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=CC=C2)C)C | C22H27N3O3S
